US05446059
a) 2-Benzyloxy-6-nitroaniline
6.16 g (40 mM) of 2-amino-3-nitrophenol, 60 ml of dimethylformamide and 6.62 g (48 mM) of dipotassium carbonate are introduced into a round-bottomed flask. 4.75 ml (40 mM) of benzyl bromide are then added dropwise and the reaction mixture is brought to 80° C. After havingbeen stirred under an inert atmosphere for 1.5 hours, the mixture is pouredinto ice-cold water and then extracted with 200 ml of ethyl acetate. The organic phase is separated by settling and, after washing with a saturatedsodium chloride solution, it is dried over magnesium sulphate and evaporated to dryness. The product is chromatographed on a silica column (eluent: 10% ethyl acetate and 90% hexane) to lead to 8.8 g (90%) of the expected compound in the form of an orangey oil.

reactant | 2-amino-3-nitrophenol | 40 mM, 6.16 g | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | dipotassium carbonate | 48 mM, 6.62 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 40 mM, 4.75 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-Benzyloxy-6-nitroaniline | C(C1=CC=CC=C1)OC1=C(N)C(=CC=C1)[N+](=O)[O-] | C13H12N2O3
